US07772226B2
(g) t-Butyl 4-[1-(2-butynyl)-5-cyano-4-(2-ethoxycarbonylvinyl)-1H-imidazol-2-yl]piperazine-1-carboxylate
0.038 g of sodium hydride was added to a 5 ml tetrahydrofuran solution of 0.243 g of ethyl diethylphosphonoacetate at 5° C. under a nitrogen atmosphere. 0.310 g of t-butyl 4-[1-(2-butynyl)-5-cyano-4-formyl-1H-imidazol-2-yl]piperazine-1-carboxylate dissolved in 5 ml of tetrahydrofuran was added, and the mixture was stirred for 30 minutes. 50 ml of ethyl acetate and 25 ml of 0.1N sodium hydroxide were added to the solution. The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography. Thus, 0.380 g of the title compound was obtained from the fraction eluted with ethyl acetate-hexane (3:7).

reactant | sodium hydride | 0.038 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 0.243 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | t-butyl 4-[1-(2-butynyl)-5-cyano-4-formyl-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.310 g | C(C#CC)N1C(=NC(=C1C#N)C=O)N1CCN(CC1)C(=O)OC(C)(C)C | C18H23N5O3
reactant | sodium hydroxide | 0.1N, 25 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | t-Butyl 4-[1-(2-butynyl)-5-cyano-4-(2-ethoxycarbonylvinyl)-1H-imidazol-2-yl]piperazine-1-carboxylate | 0.380 g | C(C#CC)N1C(=NC(=C1C#N)C=CC(=O)OCC)N1CCN(CC1)C(=O)OC(C)(C)C | C22H29N5O4
